US05559111
a) 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-hydroxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-butyl)-amide
1.34 g of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-benzyloxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-butyl)-amide are hydrogenated in the presence of 400 mg of 5% Pd/C in 50 ml of methanol for 10 minutes at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The residue is purified by means of FC (50 g of silica gel, hexane/ethyl acetate=1:1). The title compound is obtained: Rf (hexane/ethyl acetate=1:1)=0.16; HPLC Rt =17.42 minutes; FAB-MS: (M+H)+ =567.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-benzyloxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-butyl)-amide | 1.34 g | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C38H60N2O7
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-hydroxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-butyl)-amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)O)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C31H54N2O7
